US08686005B2
2-{4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
2-{4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione (36.1 mg, 0.066 mmol) was mixed with zinc dust (100 mg) in AcOH (4 mL) and the reaction mixture was heated at 90° C. for 2 h. After it was cooled to the room temperature, the upper clear layer of the reaction mixture was evaporated and the residue was subjected to HPLC purification to afford the title compound in TFA salt form (9.2 mg, 22%). 1H NMR (DMSO-d6) δ 1.90-2.15 (4H), 2.75 (s, 3H, CH3), 3.21 (m, 2H), 3.42-3.60 (2H), 3.65 (m, 1H), 4.31 (m, 1H), 4.50 (s, 2H), 4.98 (m, 1H), 6.19 (d, J=6 Hz, 1H), 7.31-7.41 (3H), 7.51 (d, J=6 Hz, 1H), 7.63 (s, 1H), 7.78 (s, 1H), 7.90 (s, 1H), 9.60 (br s, 1H), 11.06 (br s, 1H, NH), 11.23 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 533.5 (MH+).

reactant | 2-{4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 0.066 mmol, 36.1 mg | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C=1NC2=CC=3C(N(C(C3C=C2N1)=O)C1CCN(CC1)C)=O)O | C28H27ClN6O4
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
catalyst | zinc | 100 mg | [Zn] | Zn
product | 2-{4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C1=NC2=CC=3CN(C(C3C=C2N1)=O)C1CCN(CC1)C)O | C28H29ClN6O3
